US07312236B2
2,4-Difluoro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide di-hydrochloride salt
Using a method similar to example 1, using 2,4-difluoro-benzoyl chloride (106 mg, 0.60 mmol) and 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine (preparation 10, 100 mg, 0.46 mmol) provides the free amine of the title compound as a colorless oil (59 mg, 36%): MS (ES): m/z=358.2 (M+H)+; 1H NMR (CDCl3): δ 8.94 (d, 1H), 8.21 (m, 2H), 7.72 (t, 1H), 7.19 (d, 1H), 7.04 (m, 2H), 6.71 (m, 1H), 2.78 (m, 1H), 2.49 (m, 3H), 2.38 (s, 6H), 2.17 (m, 2H), 1.59 (m, 1H). Using a salt formation method similar to that in example 1 gives the dihydrochloride salt: Di-hydrochloride salt: Anal cal'd for C20H21F2N3O.2HCl: C, 55.82; H, 5.39; N, 9.76. Found: C, 56.15; H, 5.49; N, 9.73.

reactant | 2,4-difluoro-benzoyl chloride | 0.60 mmol, 106 mg | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine | 0.46 mmol, 100 mg | CN(C1CC=C(CC1)C1=CC=CC(=N1)N)C | C13H19N3
product | 2,4-Difluoro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide di-hydrochloride salt | 59 mg, 36% | Cl.Cl.FC1=C(C(=O)NC2=NC(=CC=C2)C2=CCC(CC2)N(C)C)C=CC(=C1)F | InChI=1S/C20H21F2N3O.2ClH/c1-25(2)15-9-6-13(7-10-15)18-4-3-5-19(23-18)24-20(26)16-11-8-14(21)12-17(16)22;;/h3-6,8,11-12,15H,7,9-10H2,1-2H3,(H,23,24,26);2*1H
